US06410555B1
N-(8,8-Dimethyl-5,6,7,8-tetrahydro[1,6]naphthyridin-3-yl)-4-methoxy-3-trifluoromethylbenzamide Hydrochloride
N-(5,6,7,8-Tetrahydro-6,8,8-trimethyl[1,6]naphthyridin-3-yl)-4-methoxy-3-trifluoromethylbenzamide (172 mg; 0.44 mmol) was suspended in 1,2-dichloromethane (30 ml) and the mixture treated with 1-chloroethyl chlioroformate (62.5 mg: 47 ml; 0.44 mmol). The mixture was heated at reflux and more chlioroformate added until little or no starting material remained. At this point. the volatiles were removed under reduced pressure and the residue dissolved in methanol (30 ml) and heated at reflux for 15 min. The volatiles were removed under reduced pressure and the residue treated with a mixture of 0.88 aqueous ammonia/methanol/dichloromethane (0.5: 4.5:95) and the resulting, beige solid was collected by filtration. The free base (123 mg; 0.32 mmol) was dissolved in methanol (min. vol) and treated with IM hydrogen chloride in diethyl ether (0.32 ml: 0.32 mmol) and the mixture diluted with diethyl ether to turbidity and refrigerated. The title compound was obtained as white powder (130 mg: 71%).

reactant | N-(5,6,7,8-Tetrahydro-6,8,8-trimethyl[1,6]naphthyridin-3-yl)-4-methoxy-3-trifluoromethylbenzamide | 0.44 mmol, 172 mg | CN1CC=2C=C(C=NC2C(C1)(C)C)NC(C1=CC(=C(C=C1)OC)C(F)(F)F)=O | C20H22F3N3O2
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 0.32 mmol, 0.32 ml | C(C)OCC | C4H10O
product | N-(8,8-Dimethyl-5,6,7,8-tetrahydro[1,6]naphthyridin-3-yl)-4-methoxy-3-trifluoromethylbenzamide Hydrochloride | Cl.CC1(CNCC=2C=C(C=NC12)NC(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | InChI=1S/C19H20F3N3O2.ClH/c1-18(2)10-23-8-12-6-13(9-24-16(12)18)25-17(26)11-4-5-15(27-3)14(7-11)19(20,21)22;/h4-7,9,23H,8,10H2,1-3H3,(H,25,26);1H
